US07659268B2
6-Bromoisoindolin-1-one (636 mg, 3.10 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (930 mg, 3.70 mmol), and Pd(dppf)Cl2 (125 mg, 0.150 mmol) were added to a dry flask and placed under N2. Potassium acetate (900 mg, 9.20 mmol) was weighed directly into the flask. The flask was then evacuated and back filled with N2. Anhydrous N,N-dimethylformamide (DMF) (18 mL) was added and the reaction was heated at 80° C. overnight. The reaction mixture was evaporated to dryness and the resulting material was purified by silica gel chromatography eluting with 0-100% ethyl acetate in hexane to yield 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoindolin-1-one (493 mg, 62%). ESI-MS m/z calc. 259.1, found 260.1 (M+1)+. Retention time 1.24 minutes.

reactant | 6-Bromoisoindolin-1-one | 3.10 mmol, 636 mg | BrC1=CC=C2CNC(C2=C1)=O | C8H6BrNO
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 3.70 mmol, 930 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | Potassium acetate | 9.20 mmol, 900 mg | C(C)(=O)[O-].[K+]
catalyst | Pd(dppf)Cl2 | 0.150 mmol, 125 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoindolin-1-one | 493 mg, 62% | CC1(OB(OC1(C)C)C1=CC=C2CNC(C2=C1)=O)C | C14H18BNO3
